US05593988
A solution of (±)-[6-(4-chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]carbohydrazide (109.7 mg) in dimethylformamide (1 ml) was cooled to -40° C. and 4N dioxane hydrochloride (0.23 ml) was added thereto. The temperature of the mixture was raised to 0° C. The reaction mixture was cooled again to -40° C. and isopentyl nitrite (40 μl) was added thereto. The mixture was stirred at -30° C. for 1 hour. The temperature of the mixture was again cooled to -70° C. Triethylamine (0.125 ml) was added to the mixture and 10 minutes later, benzyl amine (77 μl) was added thereto. Then, the temperature of the mixture was raised to 0° C. and the mixture was stirred for 3 hours. The mixture was stirred at room temperature for 10 hours. Dimethylformamide was distilled away under reduced pressure and the residue obtained was dissolved in chloroform and washed with 0.3N hydrochloric acid, an aqueous solution of sodium bicarbonate and water in order and dried over anhydrous sodium sulfate. Chloroform was distilled away under reduced pressure and ethyl acetate was added to the residue to give 95.1 mg of (±)-N-benzyl-[6-(4-chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]- benzodiazepin-4-yl]carboxamide as colorless needle crystals, mp. 265°-267° C.

reactant | (±)-[6-(4-chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepin-4-yl]carbohydrazide | 109.7 mg | ClC1=CC=C(C=C1)C1=NC(C=2N(C3=C1C=CC=C3)C(=NN2)C)NNC(=O)NN | C18H17ClN8O
reactant | dioxane hydrochloride | 4N, 0.23 ml | Cl.O1CCOCC1
reactant | isopentyl nitrite | 40 μl | N(=O)OCCC(C)C | C5H11NO2
reactant | benzyl amine | 77 μl | C(C1=CC=CC=C1)N | C7H9N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Triethylamine | 0.125 ml | C(C)N(CC)CC | C6H15N
product | (±)-N-benzyl-[6-(4-chlorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]- benzodiazepin-4-yl]carboxamide | 95.1 mg | C(C1=CC=CC=C1)NC(=O)C1C=2N(C3=C(C(=N1)C1=CC=C(C=C1)Cl)C=CC=C3)C(=NN2)C | C25H20ClN5O
